US04179511
6-(2-[2-(aminomethyl)phenylthio]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam
The title compound is prepared in 14% yield, as a colorless amorphous solid, by acylation of 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam with 2-(2-[aminomethyl]phenylthio)acetic acid (U.S. Pat. No. 3,766,176), using the method of Example LXXVII. IR(KBr disc): 1780 and 1665 cm-1. NMR (DMSO-d6 /D2O): 7.50 ppm (m, 4H), 5.70 ppm (d, 1H), 5.43 ppm (d, 1H), 5.19 ppm (s, 1H), 4.35 ppm (s, 2H), 3.94 ppm (s, 2H), 1.60 ppm (s, 3H), and 1.00 ppm (s, 3H).

reactant | 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C8H12N6OS
reactant | 2-(2-[aminomethyl]phenylthio)acetic acid | NCC1=C(C=CC=C1)SCC(=O)O | C9H11NO2S
reactant | KBr | [K+].[Br-]
product | 6-(2-[2-(aminomethyl)phenylthio]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 14% yield | NCC1=C(C=CC=C1)SCC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C17H21N7O2S2
